US05753679
0.5 g (0.00147 mol) of 1-benzyl-piperidin-4-yl 3-nitro-benzoate was dissolved in 20 ml of ethanol and treated with 0.3 g of Raney-nickel under argon. The mixture was hydrogenated at room temperature under normal pressure for 4 hrs. The catalyst was filtered off, the filtrate was concentrated and the residue was chromatographed over silica gel with ethyl acetate/hexane 1:1 as the eluent. 0.372 g (82%) of 1-benzyl-piperidin-4-yl 3-amino-benzoate was obtained as white crystals; m.p. 70°-71°.

reactant | 1-benzyl-piperidin-4-yl 3-nitro-benzoate | 0.00147 mol, 0.5 g | [N+](=O)([O-])C=1C=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=CC1 | C19H20N2O4
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | Raney-nickel | 0.3 g | [Ni] | Ni
product | 1-benzyl-piperidin-4-yl 3-amino-benzoate | 0.372 g, 82% | NC=1C=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=CC1 | C19H22N2O2
